US06114532
a. Methyl[1-(4-methylamino-3-nitro-benzoyl)-cyclohexyl]-acetate
4.9 g (0.015 mol) of [1-(4-methylamino-3-nitro-benzoyl)-cyclohexyl]-acetic acid are dissolved in 100 ml tetrahydrofuran and after the addition of 2.4 g (0.015 mol) of N,N'-carbonyldiimidazole the mixture is refluxed for 15 minutes. After concentration of the solution and addition of 30 ml methanol the mixture is refluxed for 3 hours. The solvent is distilled off, the residue chromatographed on silica gel and eluted with methylene chloride+methanol (1-5%). The desired fractions are combined and concentrated by evaporation.

reactant | [1-(4-methylamino-3-nitro-benzoyl)-cyclohexyl]-acetic acid | 0.015 mol, 4.9 g | CNC1=C(C=C(C(=O)C2(CCCCC2)CC(=O)O)C=C1)[N+](=O)[O-] | C16H20N2O5
reactant | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Methyl[1-(4-methylamino-3-nitro-benzoyl)-cyclohexyl]-acetate | COC(CC1(CCCCC1)C(C1=CC(=C(C=C1)NC)[N+](=O)[O-])=O)=O | C17H22N2O5
